US08067445B2
Step 3: (2′-{[Acetyl-(2,2-dimethyl-propyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid
(2′-{[Acetyl-(2,2-dimethyl-propyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester (0.152 g, 0.33 mmol) was dissolved in THF (1.5 mL), MeOH (1.2 mL), and aqueous 1N NaOH (0.72 mL), and the mixture was stirred at room temperature for 4 hours. Once no starting material was seen by analytical LCMS, the mixture was diluted with CH2Cl2 and aqueous 1N HCl, and the aqueous layer was extracted with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated to give the title compound. M+H is 452.

reactant | (2′-{[Acetyl-(2,2-dimethyl-propyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | 0.33 mmol, 0.152 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CC(C)(C)C)C(C)=O)=O | C25H30F3NO4
reactant | MeOH | 1.2 mL | CO | CH4O
reactant | NaOH | 1N, 0.72 mL | [OH-].[Na+]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | HCl | 1N | Cl | ClH
product | (2′-{[Acetyl-(2,2-dimethyl-propyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid | C(C)(=O)N(CC(C)(C)C)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)CC(=O)O | C24H28F3NO4
